datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][H:29],28.267104
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][O:32],23.028736
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22]#[C:21][H:26])([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:11],32.5097
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:15])[H:16])[C:10](=[C:11]([H:18])[H:19])[H:17])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])[H:16])[C:10](=[C:11]([H:18])[H:19])[H:17])[H:3],49.7896
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28],-10.46
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])[O:3]1.[O:4][H:14],41.37976
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([S:10][H:16])[C:11](=[S:12])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:13])([H:14])[H:15])([S:10][H:16])[C:11](=[S:12])[H:17],136.817
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])[H:6],39.6643
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([C:3]=[C:4]([H:10])[H:11])[H:8])[H:7])([H:5])([H:6])[H:9],184.393
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])[H:7])([H:5])[H:6].[O:11][O:12][H:13]>>[C:0]([C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:7])[O:11][O:12][H:13])([H:5])[H:6],32.6352
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:11],121.462
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],74.015
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12]>>[C:0]1([H:4])([H:5])[C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[O:12]1,0.4184
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],40.5848
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:9])[H:10].[H:8][O:18],10.64828
